US04440785
7-Phenylindolin-2-one
A stirred solution of 21.5 g. (0.084 mole) of 3-methylthio-7-phenylindolin-2-one in 400 ml. of tetrahydrofuran was treated portionwise with 110 g. of a commercial Raney nickel/water slurry over a 3 hr. period. The mixture was filtered through Celite and the filtrate was concentrated to a gummy residue. The residue was recrystallized from cyclohexane-benzene to yield 7.6 g. (43%) of product as tan needles, m.p. 167°-169° C.

reactant | 3-methylthio-7-phenylindolin-2-one | 0.084 mole | CSC1C(NC2=C(C=CC=C12)C1=CC=CC=C1)=O | C15H13NOS
catalyst | Raney nickel water | [Ni].O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-Phenylindolin-2-one | C1(=CC=CC=C1)C=1C=CC=C2CC(NC12)=O | C14H11NO
